US06372759B1
C) N1-[1-(4-Pyridyl)piperidin-4-ylmethylaminocarbonyl)-1,2-benzenediamine
A solution of 2-[1-(4-pyridyl)piperidin-4-ylmethylaminocarbonyl]amino-nitrobenzene (1.02 g, 2.87 mmol) in ethanol was hydrogenated at atmospheric pressure over 5% palladium-on-carbon. After completion (16-20 h), the mixture was filtered through diatomaceous earth, using hot ethyl acetate to wash the filter cake. Concentration of the filtrate in vacuo yielded 930 mg (99%) of the title compound.

reactant | 2-[1-(4-pyridyl)piperidin-4-ylmethylaminocarbonyl]amino-nitrobenzene | 2.87 mmol, 1.02 g | N1=CC=C(C=C1)N1CCC(CC1)CNC(=O)NC1=C(C=CC=C1)[N+](=O)[O-] | C18H21N5O3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | N1-[1-(4-Pyridyl)piperidin-4-ylmethylaminocarbonyl)-1,2-benzenediamine | 930 mg, 99% | N1=CC=C(C=C1)N1CCC(CC1)CNC(=O)NC=1C(=CC=CC1)N | C18H23N5O
